US05929067
(c) (1-Formyl-2,2-diphenyl-ethyl)-methyl-carbamic acid tert-butyl ester
17.8 ml (127 mmol) of triethylamine and a solution of 22.8 9 (127 mmol) of sulfur trioxide pyridine complex in 100 ml of dimethyl sulfoxide are added in succession to a solution of 14.5 g (42.5 mmol) of (1-hydroxymethyl-2,2-diphenyl-ethyl)-methyl-carbamic acid tert-butyl ester in 80 ml of dimethyl sulfoxide. After 45 minutes the reaction mixture is poured into ice-water and extracted completely with ether. The combined organic phases are washed twice with 1M potassium hydrogen sulfate, twice with water and once with 1M sodium hydrogen carbonate, dried over sodium sulfate and concentrated by evaporation. The title compound is obtained in the form of a yellow oil. TLC: methylene chloride/methanol (95:5) Rf =0.88; Rt (HPLC)=20.1 min; 1H-NMR (300 MHz, CDCl3, RT) d 9.53 (s, 1H), 7.42-7.16 (m, 10H), 5.35/5.00 (d, 1H), 4.57/4.55 (d, 1H), 2.62/2.54 (s, 3H), 1.50/1.40 (s, 9H).

reactant | triethylamine | 127 mmol, 17.8 ml | C(C)N(CC)CC | C6H15N
reactant | (1-hydroxymethyl-2,2-diphenyl-ethyl)-methyl-carbamic acid tert-butyl ester | 42.5 mmol, 14.5 g | C(C)(C)(C)OC(N(C)C(C(C1=CC=CC=C1)C1=CC=CC=C1)CO)=O | C21H27NO3
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 80 ml | CS(=O)C | C2H6OS
product | (1-Formyl-2,2-diphenyl-ethyl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)C(C(C1=CC=CC=C1)C1=CC=CC=C1)C=O)=O | C21H25NO3
